US07956070B2
Step 2: N-{(2R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-6-[(methylsulfonyl)amino]-4-(trifluoromethyl)nicotinamide
A stirred solution of 6-chloro-N-{(2R)-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-4-(trifluoromethyl)nicotinamide (0.28 g), methanesulfonamide (0.12 g) and potassium carbonate (0.148 g) in N-methyl-2-pyrrolidinone was heated under microwave irradiation (100 W) at 100° C. for 15 min. The reaction mixture was concentrated in vacuo and redissolved in 4:1:1 acetonitrile/water/acetic acid (6 mL) and subjected to RPHPLC (gradient 0.1% ammonium acetate/acetonitrile 95% to 5%) to yield a white solid (0.025 g).

reactant | 6-chloro-N-{(2R)-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-4-(trifluoromethyl)nicotinamide | 0.28 g | ClC1=NC=C(C(=O)NC[C@H](CN2CCC(CC2)OC2=CC(=C(C=C2)Cl)Cl)O)C(=C1)C(F)(F)F | C21H21Cl3F3N3O3
reactant | methanesulfonamide | 0.12 g | CS(=O)(=O)N | CH5NO2S
reactant | potassium carbonate | 0.148 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | N-{(2R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-6-[(methylsulfonyl)amino]-4-(trifluoromethyl)nicotinamide | 0.025 g | ClC=1C=C(OC2CCN(CC2)C[C@@H](CNC(C2=CN=C(C=C2C(F)(F)F)NS(=O)(=O)C)=O)O)C=CC1Cl | C22H25Cl2F3N4O5S
